US06962932B2
a) 5-[[1-(4-Fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazol-6-yl]oxy]pentanoic acid methyl ester
6-Hydroxy-1-(4-fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazole was reacted with 5-bromo-pentanoic acid methyl ester according to general operating instructions 3.

reactant | 6-Hydroxy-1-(4-fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazole | OC=1C=CC2=C(N(C(=N2)C=2C=NC=CC2)C2=CC=C(C=C2)F)C1 | C18H12FN3O
reactant | 5-bromo-pentanoic acid methyl ester | COC(CCCCBr)=O | C6H11BrO2
product | 5-[[1-(4-Fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazol-6-yl]oxy]pentanoic acid methyl ester | COC(CCCCOC=1C=CC2=C(N(C(=N2)C=2C=NC=CC2)C2=CC=C(C=C2)F)C1)=O | C24H22FN3O3
